US07709468B2
Step D: 2-(2,4-Difluorophenyl)-3-(2-methanesulfonylpyrimidin-4-yl)-8-methylimidazo[1,2-a]pyrazine
To a solution of 2-(2,4-difluorophenyl)-8-methyl-3-(2-methylsulfanylpyrimidin-4-yl)-imidazo[1,2-a]pyrazine (5.26 g, ˜75% pure, 10.7 mmol) in DCM (90 mL) and MeOH (90 mL) was added a solution of Oxone® (13.1 g, 21.4 mmol) in water (45 mL). After about 16 h, the mixture was diluted with water (250 mL) and extracted with DCM (3×200 mL). The combine organic layers were washed with brine (100 mL), dried over MgSO4, filtered, and concentrated. The crude material was purified by silica gel chromatography using a step-wise gradient of DCM:EtOAc (3:1 to 3:2 to 1:1). Fractions enriched in product were crystallized from hot ACN. The resulting solid was filtered, washing with additional ACN, and dried in a vacuum oven at about 70° C. for about 2 h to give 1.19 g (28%) of the title compound. Additional product can be obtained from further purification of column fractions and filtrate: LC/MS (Table 1, Method b) Rt=1.77 min; MS m/z: 402.1 (M+H)+.

reactant | 2-(2,4-difluorophenyl)-8-methyl-3-(2-methylsulfanylpyrimidin-4-yl)-imidazo[1,2-a]pyrazine | 10.7 mmol, 5.26 g | FC1=C(C=CC(=C1)F)C=1N=C2N(C=CN=C2C)C1C1=NC(=NC=C1)SC | C18H13F2N5S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | DCM | 90 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 90 mL | CO | CH4O
solvent | water | 45 mL | O | H2O
solvent | water | 250 mL | O | H2O
product | 2-(2,4-Difluorophenyl)-3-(2-methanesulfonylpyrimidin-4-yl)-8-methylimidazo[1,2-a]pyrazine | 1.19 g, 28% | FC1=C(C=CC(=C1)F)C=1N=C2N(C=CN=C2C)C1C1=NC(=NC=C1)S(=O)(=O)C | C18H13F2N5O2S
